JLC-3 U20 loss_restart; engineering averaged controller, not TI vendor model
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb/tools/spice/models.lib
Vsecondary sp sn SIN(0 13.97 50)
Bsource acdrive sn V=v(sp,sn)*(time<25m || time>85m)
Rwind1 acdrive ap .05
Rwind2 sn an .05
D1 ap vin DSCH20100
D2 an vin DSCH20100
D3 0 ap DSCH20100
D4 0 an DSCH20100
Rreservoir vin storage .05
Creservoir storage 0 0.008
Rcin vin cin .005
Ccin cin 0 20u
Rrawbleed vin 0 5000
Venable esrc 0 1
Senable esrc enable vin 0 SUV
.model SUV SW(Ron=1 Roff=1e12 Vt=5.87173469387755 Vh=0.29500000000000004)
Renable enable 0 1k
Cenable enable 0 1n
Css ss 0 1 IC=0
Bsoft 0 ss I=ternary_fcn(v(enable)>.5,ternary_fcn(v(ss)<1.21392,1.21392/.0036,0),-v(ss)/10u)
Rfbtop out fb 6650
Rfbbottom fb 0 2100
Berror 0 comp I=ternary_fcn(v(enable)>.5,min(max(0.000152*(v(ss)-v(fb)),-20u),60u),0)
Bcompclamp comp 0 I=max(v(comp)-1.3,0)-max(.7-v(comp),0)+ternary_fcn(v(enable)<.5,(v(comp)-.7),0)
Rcomp comp cc 33200
Ccomp cc 0 1e-07 IC=.7
Cpole comp 0 1.5e-09 IC=.7
Rgain comp 0 1e9
Bcommand command 0 V=min(max((v(comp)-.7)/.055,0),8)*v(enable)
Rinner command il 1
Cinner il 0 4u
Bstage 0 reg I=min(max(v(il),0)*min(1,max(v(vin),0)/max(v(reg),.8)),3.8461538461538467)*v(enable)
Binput vin 0 I=min(max(v(il),0)*min(1,max(v(vin),0)/max(v(reg),.8)),3.8461538461538467)*v(enable)*max(v(reg),0)/max(v(vin),3)/.9
Rlocal reg clocal .005
Clocal clocal 0 10u IC=0
Rsense reg out 0.013
Rbulk out cbulk 0.044
Cbulk cbulk 0 0.000528 IC=0
Bload out 0 I=3*tanh(v(out)/.1)
Routbleed out 0 100k
.ic v(comp)=.7 v(cc)=.7 v(reg)=0 v(out)=0
.options method=gear reltol=.0001 abstol=1n vntol=1u klu itl4=200 minbreak=1p
.save v(vin) v(reg) v(out) v(il) v(comp) v(ss) v(enable) i(Bsource) @rsense[i]
.tran 2u 120m 0 2u uic
.control
set numdgt=12
run
let sim_end=time[length(time)-1]
print sim_end
meas tran output_peak MAX v(out)
meas tran output_floor MIN v(out)
meas tran settled_min MIN v(out) from=105m to=120m
meas tran settled_max MAX v(out) from=105m to=120m
meas tran step_min MIN v(out) from=24m to=65m
meas tran step_max MAX v(out) from=24m to=65m
meas tran input_min MIN v(vin) from=105m to=120m
meas tran inductor_average_peak MAX v(il)
meas tran inductor_average_min MIN v(il)
meas tran shunt_current_peak MAX @rsense[i]
meas tran shunt_current_min MIN @rsense[i]
meas tran secondary_rms RMS i(Bsource) from=100m to=120m
.endc
.end
